US08871790B2
Compound 118.7. 3-(4-Methoxybenzyl)-6-(4-methoxyphenyl)-3-azabicyclo[3.1.0]hexane-2,4-dione
A mixture of 6-(4-Methoxyphenyl)-3-oxabicyclo[3.1.0]hexane-2,4-dione (crude product from the previous step) and (4-methoxyphenyl)methanamine was heated at 180° C. for 1.5 h. After cooling to room temperature, the reaction mixture was dissolved in CH2Cl2 and purified by flash column chromatography with EtOAc in hexane (20%, 30%, then 40%) to give the title compound as a yellow solid (0.71 g, 63% yield over three steps). MS [M+H]+: 338.

reactant | 6-(4-Methoxyphenyl)-3-oxabicyclo[3.1.0]hexane-2,4-dione | COC1=CC=C(C=C1)C1C2C(OC(C12)=O)=O | C12H10O4
reactant | (4-methoxyphenyl)methanamine | COC1=CC=C(C=C1)CN | C8H11NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-(4-Methoxybenzyl)-6-(4-methoxyphenyl)-3-azabicyclo[3.1.0]hexane-2,4-dione | 0.71 g, 63% yield | COC1=CC=C(CN2C(C3C(C3C2=O)C2=CC=C(C=C2)OC)=O)C=C1 | C20H19NO4
